US08629143B2
A solution of (2-(ethoxycarbonyl)phenyl)zinc(II) bromide (2.2 mL, 1.1 mmol) was added to a mixture of 1-phenylcyclopropanecarbonyl chloride (0.200 g, 1.1 mmol) and Pd(PPh3)4 (0.0644 g, 0.056 mmol) in THF (1.1 mL), stirred for 2 hours, diluted with EtOAc, washed with 1N HCl and brine, dried (Na2SO4), filtered, and chromatographed (20% Et2O/hexanes) to give 216.2 mg of impure ethyl 2-(1-phenylcyclopropanecarbonyl)benzoate. A mixture of impure ethyl 2-(1-phenylcyclopropanecarbonyl)benzoate (0.216 g, 0.735 mmol) and hydrazine hydrate (0.13 mL, 2.298 mmol) in ethanol (3 mL) was stirred at 75° C. overnight, and concentrated to give 179.7 mg of impure 4-(1-phenylcyclopropyl)phthalazin-1(2H)-one, which was treated with O-(diphenylphosphoryl)hydroxylamine using a method similar to that described in Example 1B to give impure 2-amino-4-(1-phenylcyclopropyl)phthalazin-1(2H)-one.

reactant | ethyl 2-(1-phenylcyclopropanecarbonyl)benzoate | 0.735 mmol, 0.216 g | C1(=CC=CC=C1)C1(CC1)C(=O)C1=C(C(=O)OCC)C=CC=C1 | C19H18O3
reactant | hydrazine hydrate | 2.298 mmol, 0.13 mL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(1-phenylcyclopropyl)phthalazin-1(2H)-one | 179.7 mg | C1(=CC=CC=C1)C1(CC1)C1=NNC(C2=CC=CC=C12)=O | C17H14N2O
